US08497281B2
(1H-Benzoimidazol-5-yl)-[cis-10-(6-methyl-pyridazin-3-yloxy)-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl]-methanone
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and cis-10-(6-methyl-pyridazin-3-yloxy)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1. Yield: 17% of theory; LC (method 1): tR=2.39 min; Mass spectrum (ESI+): m/z=440 [M+H]+.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-10-(6-methyl-pyridazin-3-yloxy)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | CC1=CC=C(N=N1)OC1=CC=CC2=C1[C@H]1CCCN[C@H]1CC2 | C18H21N3O
product | (1H-Benzoimidazol-5-yl)-[cis-10-(6-methyl-pyridazin-3-yloxy)-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl]-methanone | Yield: 17% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=CC=C3OC=3N=NC(=CC3)C | C26H25N5O2
